US05691319
4(a) N4 -palmitoylcytidine
A mixture of 24.3 g (100 mmole) of cytidine and 54.34 g (110 mmole) of palmitic anhydride was placed in a round-bottomed flask, and 60 ml of dimethylformamide were added to the mixture. The resulting mixture was stirred in an oil bath kept at 100° C. for 4 hours and then cooled to room temperature, after which 500 ml of diisopropyl ether were added, with stirring. The crystals thus obtained were collected by filtration and recrystallized from 500 ml of propanol. The resulting crystals were again collected by filtration and dried in a desiccator, to give 44.85 g of the title compound as a colorless powder.

reactant | cytidine | 100 mmole, 24.3 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C(=O)N=C(N)C=C1 | C9H13N3O5
reactant | palmitic anhydride | 110 mmole, 54.34 g | C(CCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCC)=O | C32H62O3
reactant | diisopropyl ether | 500 ml | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N4 -palmitoylcytidine | 44.85 g | C(CCCCCCCCCCCCCCC)(=O)NC1=NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C=C1)=O | C25H43N3O6
